US04788206
A mixture of (E)-5,5-bis(3-nitrophenyl)-2,4-pentadienoic acid ethyl ester (6.1 g) methanol (25 mL) and 2N sodium hydroxide solution (12.5 mL) was stirred at reflux for 15 minutes, then was diluted with water (50 mL) and concentrated in vacuo to remove the methanol. The basic solution was poured into a mixture of ice and 2N hydrochloric acid (20 mL), and the resulting buff-colored solids were filtered and dried to afford 5,5g of (E)-5,5-bis(3-nitrophenyl)-2,4-pentadienoic acid mp 234°-237° C. Recrystallization of a portion from chloroform-ethanol furnished the acid as its 0.25 molar hydrate, mp 237°-238° C.

reactant | (E)-5,5-bis(3-nitrophenyl)-2,4-pentadienoic acid ethyl ester | 25 mL, 6.1 g | C(C)OC(\C=C\C=C(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H16N2O6
reactant | sodium hydroxide | 2N, 12.5 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | (E)-5,5-bis(3-nitrophenyl)-2,4-pentadienoic acid | [N+](=O)([O-])C=1C=C(C=CC1)C(=C/C=C/C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C17H12N2O6
